US06423725B1
1-[1-(1-Phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-1,3- benzimidazol-2-one
This was prepared according to the procedure described in Example 1 using phenylmagnesium bromide and 1-[4-(2-oxo-2,3-dihydro-1H-1,3-benzimidazol-1-yl)piperidino]-1-cycloheptanecarbonitrile. Yield was 56%.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 1-[4-(2-oxo-2,3-dihydro-1H-1,3-benzimidazol-1-yl)piperidino]-1-cycloheptanecarbonitrile | O=C1NC2=C(N1C1CCN(CC1)C1(CCCCCC1)C#N)C=CC=C2 | C20H26N4O
product | 1-[1-(1-Phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-1,3- benzimidazol-2-one | Yield was 56% | C1(=CC=CC=C1)C1(CCCCCC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C25H31N3O
